US07153854B2
To a solution of 7-ethyl-2-methyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazine-3-carboxylic acid (70 mg), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (68.2 mg) and 1-hydroxybenotriazole (48 mg) in dimethylformamide (2 mL) was added 2-aminoethanol (17.4 mg) and the mixture was stirred at ambient temperature for 1 hour. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with saturated sodium bicarbonate solution, water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of chloroform and methanol (50:1–10:1). The crude product was triturated with isopropylether to give 7-ethyl-N-(2-hydroxyethyl)-2-methyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazine-3-carboxamide as a yellow powder (47 mg).

reactant | 7-ethyl-2-methyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazine-3-carboxylic acid | 70 mg | C(C)C1=CC=C2N1N=C(C(=C2C=2C=NC=C(C2)C)C(=O)O)C | C17H17N3O2
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 68.2 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-aminoethanol | 17.4 mg | NCCO | C2H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 7-ethyl-N-(2-hydroxyethyl)-2-methyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazine-3-carboxamide | 47 mg | C(C)C1=CC=C2N1N=C(C(=C2C=2C=NC=C(C2)C)C(=O)NCCO)C | C19H22N4O2
